US08912208B2
C. 4-(4-{4-[2-(3-Chlorophenylamino)-oxazol-5-yl]-phenyl}-cyclohexyl)-butyric acid
To a solution of (E)-4-(4-{4-[2-(3-chlorophenylamino)-oxazol-5-yl]-phenyl}-cyclohexyl)-but-2-enoic acid benzyl ester (139 mg, 0.283 mmol) in EtOAc/EtOH (5:1 v/v, 6 mL) is added Pd(OH)2 (100 mg) the mixture is stirred in an hydrogenated at 1 atm for 72 h. The catalyst is filtered and washed with EtOAc. The filtrated is then concentrated and dried under high vacuum to give the title compound (107 mg) as a white solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 0.98-1.09 (m, 2 H) 1.18-1.25 (m, 2H) 1.39-1.48 (m, 2H) 1.49-1.57 (m, 2 H) 1.82 (d, J=10.11 Hz, 4 H) 1.74-1.85 (m, 1 H) 2.18 (t, J=7.33 Hz, 2 H) 6.99 (ddd, J=7.96, 2.02, 0.88 Hz, 1 H) 7.28-7.33 (m, 3 H) 7.40 (s, 1 H) 7.47-7.52 (m, 3 H) 7.85 (t, J=2.02 Hz, 1 H); (M+H)+=439.0.

reactant | (E)-4-(4-{4-[2-(3-chlorophenylamino)-oxazol-5-yl]-phenyl}-cyclohexyl)-but-2-enoic acid benzyl ester | 0.283 mmol, 139 mg | C(C1=CC=CC=C1)OC(\C=C\CC1CCC(CC1)C1=CC=C(C=C1)C1=CN=C(O1)NC1=CC(=CC=C1)Cl)=O | C32H31ClN2O3
solvent | EtOAc EtOH | 6 mL | CCOC(=O)C.CCO
catalyst | Pd(OH)2 | 100 mg | [OH-].[OH-].[Pd+2]
product | 4-(4-{4-[2-(3-Chlorophenylamino)-oxazol-5-yl]-phenyl}-cyclohexyl)-butyric acid | 107 mg | ClC=1C=C(C=CC1)NC=1OC(=CN1)C1=CC=C(C=C1)C1CCC(CC1)CCCC(=O)O | C25H27ClN2O3
